US08207203B2
b) 3-(2,3-Difluorophenyl)-5-(Phenylacetylamino)-4-(4-pyridyl)-isoxazole
In 3 mL of THF, 68 mg of imidazole and 152 mg of DBU were dissolved, into which 155 mg of phenylacetyl chloride was dropped under cooling with ice and stirring, followed by 1.5 hours' stirring at room temperature. Then a solution of 137 mg of 5-amino-3-(2,3-difluorophenyl)-4-(4-pyridyl)isoxazole and 152 mg of DBU in 3 mL of THF was added dropwise, followed by 26 hours' stirring at room temperature. After addition of water, the reaction solution was extracted with ethyl acetate. The ethyl acetate extract was washed first with saturated aqueous NaHCO3 solution and then with brine, dried over anhydrous magnesium sulfate, and removed of the solvent by reduced pressure distillation. The resultant residue was purified by thin-layer silica gel chromatography (developer, hexane:ethyl acetate=1:1) to provide 88 mg (yield: 45%) of the title compound as colorless crystal.

reactant | imidazole | 68 mg | N1C=NC=C1 | C3H4N2
reactant | DBU | 152 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | phenylacetyl chloride | 155 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5-amino-3-(2,3-difluorophenyl)-4-(4-pyridyl)isoxazole | 137 mg | NC1=C(C(=NO1)C1=C(C(=CC=C1)F)F)C1=CC=NC=C1 | C14H9F2N3O
reactant | DBU | 152 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(2,3-Difluorophenyl)-5-(Phenylacetylamino)-4-(4-pyridyl)-isoxazole | 88 mg, yield: 45% | FC1=C(C=CC=C1F)C1=NOC(=C1C1=CC=NC=C1)NC(CC1=CC=CC=C1)=O | C22H15F2N3O2
